US05981572
Cyclopropanecarboxylic acid [3-(5-bromo-2,3-dihydro-benzofuran-4-yl)propyl]-amide
A mixture of 3-(5-bromo-2,3-dihydro-benzofuran-4-yl)-propylamine hydrochloride (100 mg), dimethylformamide (3 drops), triethylamine (0.35 ml) and dichloromethane (3 ml) was stirred in ice for 15 minutes. Cyclopropanecarbonyl chloride (36 mg) was added and stirring continued for 2 hours. The mixture was purified by chromatography on silica to give the title compound as a white solid (86 mg).

reactant | 3-(5-bromo-2,3-dihydro-benzofuran-4-yl)-propylamine hydrochloride | 100 mg | Cl.BrC=1C=CC2=C(CCO2)C1CCCN
reactant | triethylamine | 0.35 ml | C(C)N(CC)CC | C6H15N
reactant | Cyclopropanecarbonyl chloride | 36 mg | C1(CC1)C(=O)Cl | C4H5ClO
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | Cyclopropanecarboxylic acid [3-(5-bromo-2,3-dihydro-benzofuran-4-yl)propyl]-amide | 86 mg | BrC=1C=CC2=C(CCO2)C1CCCNC(=O)C1CC1 | C15H18BrNO2
